US05011932
Preparation of benzoic acid [1-(4-pyridinyl)propylidene]hydrazide, Compound 51
A mixture of 4.05 gm (0.03 mole) of 4-propionylpyridine, 4.08 gm (0.03 mole) of benzhydrazide and 100 ml of Ethanol is refluxed 6 hr. The hot solution is filtered. The filtrate is cooled to room temperature and then chilled in the refrigerator. The product is collected, washed with Skellysolve B and dried to yield 5.36 gm (71%) of the title compound having a melting point of 177.6° C.

reactant | 4-propionylpyridine | 0.03 mole, 4.05 gm | C(CC)(=O)C1=CC=NC=C1 | C8H9NO
reactant | benzhydrazide | 0.03 mole, 4.08 gm | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | Ethanol | 100 ml | C(C)O | C2H6O
product | benzoic acid [1-(4-pyridinyl)propylidene]hydrazide | 5.36 gm, 71% | N1=CC=C(C=C1)C(CC)=NNC(C1=CC=CC=C1)=O | C15H15N3O
